US04715889
5-chloro-3-methylquinoline-8-carboxylic acid (compound no.4)
14 g of methacrolein were added dropwise, at 100° C., to a solution of 17 g of 4-chloroanthranilic acid and 19 g of sodium m-nitrobenzenesulfonate in 200 g of 57% strength sulfuric acid. The mixture was stirred for 1 hour at 130° C., after which it was diluted with 450 g of water and filtered under suction while hot. The pH was brought to 2-3 with concentrated sodium hydroxide solution, while cooling. The precipitated solid was filtered off under suction, washed with water and dried.

reactant | methacrolein | 14 g | O=CC(C)=C | C4H6O
reactant | 4-chloroanthranilic acid | 17 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | sodium m-nitrobenzenesulfonate | 19 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 450 g | O | H2O
product | 5-chloro-3-methylquinoline-8-carboxylic acid | ClC1=C2C=C(C=NC2=C(C=C1)C(=O)O)C | C11H8ClNO2
